US06777406B2
(±)-cis-4,5,8,9,10,10a-hexahydrodipyrrolo[3,4-c:3′,2′,1′-ij]quinolin-7(7aH)-one, hydrochloride salt
To a solution of (±)-cis tert-butyl 7-oxo-4,5,7a,8,10,10a-hexahydrodipyrrolo[3,4-c:3′,2′,1′-ij]quinoline-9(7H)-carboxylate (100 mg, 0.32 mmol) in 5 mL of methylene chloride was added trifluoroacetic acid (1 mL). This mixture was stirred at ambient temperature for 2 h and then concentrated in vacuo. The residue was basified with sat'd aq Na2CO3 and extracted with chloroform. The organics were washed with brine, dried (K2CO3) and concentrated in vacuo to afford the free base. This residue was dissolved in 1 mL absolute ethanol and 5 mL ether and then 2M HCl in ether (0.32 mL, 0.64 mmol) was added and a solid fell out of solution. The solvents were decanted and the solid was triturated twice with ether and dried in vacuo to afford 40 mg (50%) of the title compound of EXAMPLE 108 as an off white powder. 1H NMR (dmso-D6) δ: 9.42 (broad s, 1H), 9.20 (broad s, 1H), 7.16 (app t, 2H, J=8.0 Hz), 6.97 (app t, 1H, J=7.5 Hz), 4.05-3.95 (m, 3H), 3.79-3.70 (m, 1H), 3.68-3.53 (m, 2H), 3.51-3.42 (m, 1H), 3.20-3.10 (m, 2H), 2.90-2.80 (m, 1H). LRMS (ES)+: 214.9 (M+H)+.

reactant | (±)-cis tert-butyl 7-oxo-4,5,7a,8,10,10a-hexahydrodipyrrolo[3,4-c:3′,2′,1′-ij]quinoline-9(7H)-carboxylate | 0.32 mmol, 100 mg | O=C1N2C3=C(C=CC=C3[C@@H]3[C@H]1CN(C3)C(=O)OC(C)(C)C)CC2 | C18H22N2O3
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | ether | 5 mL | CCOCC | C4H10O
reactant | HCl | 2M | Cl | ClH
reactant | ether | 0.64 mmol, 0.32 mL | CCOCC | C4H10O
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | (±)-cis-4,5,8,9,10,10a-hexahydrodipyrrolo[3,4-c:3′,2′,1′-ij]quinolin-7(7aH)-one, hydrochloride salt | 40 mg, 50% | Cl.C1=C2[C@@H]3[C@H](C(N4C2=C(C=C1)CC4)=O)CNC3 | InChI=1S/C13H14N2O.ClH/c16-13-11-7-14-6-10(11)9-3-1-2-8-4-5-15(13)12(8)9;/h1-3,10-11,14H,4-7H2;1H/t10-,11-;/m1./s1
